US07700589B2
60d) (R)-1-benzyloxycarbonyl-2-(3,4-diethyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
87 mg (2.0 mmol) sodium hydride (55% in mineral oil) were added to an ice-cooled mixture of 600 mg (1.9 mmol) benzyl (R)-2-amino-3-(3,4-diethyl-phenyl)-propionate and 40 mL THF, stirred for 30 min at RT, cooled in the ice bath and 660 mg (2.1 mmol) 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride in 20 mL THF were added dropwise within 10 min. The reaction mixture was stirred for a further 30 min while cooling with ice and for 1 h at RT and then evaporated down under reduced pressure. The residue was taken up in EtOAc and purified by chromatography on silica gel.

reactant | sodium hydride | 2.0 mmol, 87 mg | [H-].[Na+]
reactant | benzyl (R)-2-amino-3-(3,4-diethyl-phenyl)-propionate | 1.9 mmol, 600 mg | N[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=C(C=C1)CC)CC | C20H25NO2
reactant | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonylchloride | 2.1 mmol, 660 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)Cl)C=CC=C2 | C15H18ClN3O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | (R)-1-benzyloxycarbonyl-2-(3,4-diethyl-phenyl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C=C1)CC)CC)C(=O)OCC1=CC=CC=C1)C=CC=C2 | C35H41N3O5
